US05834468
Sodium hydride (6.5 g, 50% dispersion in oil) in DMF (100 ml) was cooled (0° C., ice bath) and 4-thiobenzoic acid (10 g) was added. After stirring for 30 minutes at 0° C., 2-bromomethylphenyl benzyl ether (18.6 g) as a solution in DMF (100 ml) was added. The reaction was stirred at ambient temperature for 18 hours, cooled (ice bath), water was added, and the mixture acidified with acetic acid. The resulting solid was isolated by filtration and recrystallised from methanol to give 4-[2-benzyloxybenzylthio]benzoic acid (24 g) (mpt. 144° C.).

reactant | Sodium hydride | 6.5 g | [H-].[Na+]
reactant | 4-thiobenzoic acid | 10 g | C1=CC(=CC=C1C(=O)O)S | C7H6O2S
reactant | 2-bromomethylphenyl benzyl ether | 18.6 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CBr | C14H13BrO
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[2-benzyloxybenzylthio]benzoic acid | 24 g | C(C1=CC=CC=C1)OC1=C(CSC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C21H18O3S
